Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.80456420134
[H:11].[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.46059307633
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3],0.5767092238
[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[C:13]([H:14])([H:15])[H:16],4.25114026202
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-2.79580646692
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6],2.9426446101
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],3.75966642557
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9].[O:10][H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-2.68579989023
[H:1][C:2]=[C:3]1[O:4][C:5]([H:6])([H:7])[C:8][C:9]1([H:10])[H:11]>>[H:1][C:2][C:3](=[O:4])[C:9]([C:8]=[C:5]([H:6])[H:7])([H:10])[H:11],-0.1187871704599999
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[O:8],5.22541265166
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.06931413473
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],4.89150130689
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],4.16897992917
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C@@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-4.37338011127
[H:1][O:2][C:3]#[C:4]/[C:6]([H:7])=[C:8]/[O:9][H:10].[H:5]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],-2.38011040332
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],0.4248293500020001
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1].[O:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],3.66073298044
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:10]([O:9][C:7][H:8])[H:11],1.49700370874
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.96180380049
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.94831915344
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5],4.15601006815
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.52688128527
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.49657594275
[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-6.34808561024
[H:1][C:2]([H:3])[C:4]#[C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.94980242818
